US08110570B2
A mixture of 33 mg (0.15 mmol) of 2-amino-5-bromobenzamide and 30 mg (0.15 mmol) of 1-Boc-4-piperidone in 400 μL of acetic acid containing 10 μL of sulfuric acid is stirred overnight at room temperature. The reaction mixture is diluted with diethyl ether. The yellow precipitate is collected by filtration, washed with excess ether, and dried under vacuum to give 55 mg (0.15 mmol) of the acetic acid salt of 6′-bromospiro-[piperidine-4,2′(1′H)-quinazolin]-4′-(3′H)-one. MS m/z: 297.0 (M+H)+, 319.0 (M+Na)+.

reactant | 2-amino-5-bromobenzamide | 0.15 mmol, 33 mg | NC1=C(C(=O)N)C=C(C=C1)Br | C7H7BrN2O
reactant | 1-Boc-4-piperidone | 0.15 mmol, 30 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 400 μL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 0.15 mmol, 55 mg | C(C)(=O)O | C2H4O2
product | 6′-bromospiro-[piperidine-4,2′(1′H)-quinazolin]-4′-(3′H)-one | BrC=1C=C2C(NC3(NC2=CC1)CCNCC3)=O | C12H14BrN3O
